US05981776
4-Iodo-3-hydroxybenzoic acid.
3.6% sodium perchlorate solution is added dropwise to a mixture of 4-hydroxybenzoic acid (2.55 g, 18.5 mmol), sodium hydroxide (0.74 g, 18.5 mmol) and sodium iodide (2.77 g, 18.5 mmol) in methanol (50 ml), at 0° C. The mixture is left stirring for two hours at 0° C. 20 ml of 10% sodium thiosulphate solution are added. After stirring, the mixture is acidified with hydrochloric acid to pH 1. It is extracted with 100 ml of ethyl ether. The organic phase is washed twice with 80 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C.

reactant | sodium perchlorate | Cl(=O)(=O)(=O)[O-].[Na+]
reactant | 4-hydroxybenzoic acid | 18.5 mmol, 2.55 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 18.5 mmol, 0.74 g | [OH-].[Na+]
reactant | sodium iodide | 18.5 mmol, 2.77 g | [I-].[Na+]
reactant | sodium thiosulphate | 20 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-Iodo-3-hydroxybenzoic acid | IC1=C(C=C(C(=O)O)C=C1)O | C7H5IO3
